US05571775
54. Preparation of 3-Amino-4-ethoxy-2-fluoropyridine
To a solution of 19 g (74 mmol) of t-butyl N-(4-ethoxy-2-fluoro-3-pyridinyl)carbamate and 12.2 g (81.5 mmol) of sodium iodide in 400 mL of dry acetonitrile was added with stirring 8.9 g (81.5 mmol) of trimethylsilyl chloride. The mixture was allowed to react for 4 hr and then a 100 mL solution of aqueous sodium bicarbonate was added with stirring. The resulting mixture was extracted with 1 L of ether and the ether extract was dried over magnesium sulfate, filtered, and concentrated by evaporation. The residue was purified by column chromatography to obtain 6.3 g (55 percent of theory) of the title compound as a colorless solid melting at 76°-77° C.

reactant | t-butyl N-(4-ethoxy-2-fluoro-3-pyridinyl)carbamate | 74 mmol, 19 g | C(C)OC1=C(C(=NC=C1)F)NC(OC(C)(C)C)=O | C12H17FN2O3
reactant | sodium iodide | 81.5 mmol, 12.2 g | [I-].[Na+]
reactant | trimethylsilyl chloride | 81.5 mmol, 8.9 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 3-Amino-4-ethoxy-2-fluoropyridine | NC=1C(=NC=CC1OCC)F | C7H9FN2O
